US06824879B2
Synthesis of Absorbing SOG Containing Phenyltrimethoxysilane
In a 1-liter flask 297 grams (4.798 moles) 2-propanol, 148 grams (2.558 moles) acetone, 123 grams (0.593 moles) TEOS, 104 grams (0.432 moles) phenyltriethoxysilane, 0.6 grams 0.1 M nitric acid and 72 grams (3.716 moles) deionized water were combined. The flask was refluxed for 4 hours. To the solution, 57 grams (0.769 moles) of Butanol, 88 grams (1.422 moles) 2-propanol, 44 grams (0.758 moles) of acetone, 59 grams (1.227 moles) of ethanol, 9.5 grams (0.528 moles) deionized water were added.

reactant | 2-propanol | 4.798 moles, 297 grams | CC(C)O | C3H8O
reactant | acetone | 2.558 moles, 148 grams | CC(=O)C | C3H6O
reactant | TEOS | 0.593 moles, 123 grams | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | phenyltriethoxysilane | 0.432 moles, 104 grams | C1(=CC=CC=C1)[Si](OCC)(OCC)OCC | C12H20O3Si
reactant | nitric acid | 0.1 M, 0.6 grams | [N+](=O)(O)[O-] | HNO3
reactant | Butanol | 0.769 moles, 57 grams | C(CCC)O | C4H10O
reactant | 2-propanol | 1.422 moles, 88 grams | CC(C)O | C3H8O
reactant | acetone | 0.758 moles, 44 grams | CC(=O)C | C3H6O
reactant | ethanol | 1.227 moles, 59 grams | C(C)O | C2H6O
solvent | water | O | H2O
product | Phenyltrimethoxysilane | C1(=CC=CC=C1)[Si](OC)(OC)OC | C9H14O3Si
